US07855216B2
[3-(2-Fluoro-4-iodo-phenylamino)-1H-pyrrolo[3,2-c]pyridin-2-yl]-((2S,4R)-4-hydroxy-2-hydroxymethyl-pyrrolidin-1-yl)-methanone
The title compound was prepared in an analogous fashion to [3-(2-fluoro-4-iodo-phenylamino)-1H-pyrrolo[3,2-c]pyridin-2-yl]-((R)-3-hydroxy-pyrrolidin-1-yl)-methanone, replacing (R)-pyrrolidin-3-ol hydrochloride with (3R,5S)-5-hydroxymethyl-pyrrolidin-3-ol hydrochloride. 1H-NMR (400 MHz, MeOD) 6 ppm 8.62 (d, J=1.02 Hz, 1H), 8.23 (d, J=5.99 Hz, 1H), 7.52-7.35 (m, 2H), 7.34-7.16 (m, 1H), 6.60 (t, J=8.8 Hz, 1H), 4.59-4.42 (m, 1H), 4.35-4.17 (m, 1H), 3.71-3.44 (m, 4H), 2.19-1.90 (m, 2H); LC-MS (method E): [M+H]+=497.1, RT=3.37 min.

reactant | [3-(2-fluoro-4-iodo-phenylamino)-1H-pyrrolo[3,2-c]pyridin-2-yl]-((R)-3-hydroxy-pyrrolidin-1-yl)-methanone | FC1=C(C=CC(=C1)I)NC1=C(NC2=C1C=NC=C2)C(=O)N2C[C@@H](CC2)O | C18H16FIN4O2
reactant | (3R,5S)-5-hydroxymethyl-pyrrolidin-3-ol hydrochloride | Cl.OC[C@@H]1C[C@H](CN1)O
product | [3-(2-Fluoro-4-iodo-phenylamino)-1H-pyrrolo[3,2-c]pyridin-2-yl]-((2S,4R)-4-hydroxy-2-hydroxymethyl-pyrrolidin-1-yl)-methanone | FC1=C(C=CC(=C1)I)NC1=C(NC2=C1C=NC=C2)C(=O)N2[C@@H](C[C@H](C2)O)CO | C19H18FIN4O3
